US08283354B2
To a stirred solution of 2-(4-((R)-3-(aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol (200 mg, 0.57 mmol) in DMF under an N2 atmosphere at 0° C. was added triethylamine (115 mg, 1.14 mmol) followed by the dropwise addition of (S)-tetrahydrofuran-3-yl chloroformate (86 mg, 0.57 mmol). The reaction was allowed to warm to room temperature and was stirred for 2 h. The mixture was partitioned between H2O and CH2Cl2 and separated, and the aqueous layer was extracted twice with CH2Cl2. The organic layers were combined, dried over Na2SO4, filtered, and concentrated. Purification via silica gel chromatography using 4:1 CH2Cl2:EtOAc afforded (S)-tetrahydrofuran-3-yl((R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate. LC/MS: m/z 463.5 (M+H)+ at 2.34 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-((R)-3-(aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol | 0.57 mmol, 200 mg | NC[C@@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C21H24N4O
reactant | triethylamine | 1.14 mmol, 115 mg | C(C)N(CC)CC | C6H15N
reactant | (S)-tetrahydrofuran-3-yl chloroformate | 0.57 mmol, 86 mg | ClC(=O)O[C@@H]1COCC1 | C5H7ClO3
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-tetrahydrofuran-3-yl((R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | O1C[C@H](CC1)OC(NC[C@@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C26H30N4O4
